US06673968B1
2.7 kg of N-(4,5-bismethanesulfonyl-2-methylbenzoyl)guanidine are suspended in 25 l of ethanol at 60°, and 10.6 l of 1N HCl solution are added. On warming to 80°, a clear solution is obtained. The solution is allowed to cool slowly, with crystallisation beginning at 50°, The N-(4, 5-bismethanesulfonyl-2-methylbenzoyl)guanidine, hydrochloride obtained is subsequently dried to constant weight at 60°, giving N-(4,5-bismethanesulfonyl-2-methylbenzoyl)guanidine, hydrochloride.

reactant | N-(4,5-bismethanesulfonyl-2-methylbenzoyl)guanidine | 2.7 kg | CS(=O)(=O)C1=CC(=C(C(=O)NC(=N)N)C=C1S(=O)(=O)C)C | C11H15N3O5S2
reactant | HCl | 1N, 10.6 l | Cl | ClH
solvent | ethanol | 25 l | C(C)O | C2H6O
product | N-(4, 5-bismethanesulfonyl-2-methylbenzoyl)guanidine, hydrochloride | Cl.CS(=O)(=O)C1=CC(=C(C(=O)NC(=N)N)C=C1S(=O)(=O)C)C | InChI=1S/C11H15N3O5S2.ClH/c1-6-4-8(20(2,16)17)9(21(3,18)19)5-7(6)10(15)14-11(12)13;/h4-5H,1-3H3,(H4,12,13,14,15);1H
